US05643878
c) 2-[2-(Benzyloxycarbonylaminoethoxy)-ethoxy]-acetic Acid
A suspension of 6.7 g (12.5 mmol) of 2-[2-(aminoethoxy)ethoxy]-acetic acid in 30 ml of THF and 10 ml of water is adjusted to pH 10 with 2N NaOH, and reacted dropwise with 1.95 ml of chloroformic acid benzyl ester (Fluka, Buchs, Switzerland). While the mixture is being stirred for 2.5 h, the pH is maintained between 9 and 9.5 by 2N NaOH. After concentration of the reaction mixture under reduced pressure, the resulting aqueous phase is washed twice with ethyl acetate, adjusted to pH 1.8 with 2N sulfuric acid and extracted 3 times with ethyl acetate. The combined organic phases are then washed with water and brine, dried and concentrated under reduced pressure. The title compound so obtained is further used without being further purified. TLC Rf (ethyl acetate/acetic acid: 9/1)=0.39.

reactant | 2-[2-(aminoethoxy)ethoxy]-acetic acid | 12.5 mmol, 6.7 g | NCCOCCOCC(=O)O | C6H13NO4
reactant | NaOH | 2N | [OH-].[Na+]
reactant | chloroformic acid benzyl ester | 1.95 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-[2-(Benzyloxycarbonylaminoethoxy)-ethoxy]-acetic Acid | C(C1=CC=CC=C1)OC(=O)NCCOCCOCC(=O)O | C14H19NO6
